US05658902
Step 1: 6-iodo-2-trifluoromethyl-benzo[d][1,3] oxazin-4-one
5-iodo-2-aminobenzoic acid (2.1 g, 8 mmole) was mixed with trifluoroacetic anhydride (12 g, 57 mmole) and 2 mL of triethyl amine, heated to reflux for 2 h. The solvent was removed under reduced pressure, the residue was stirred with 25 mL of ether and 5 mL of water. The organic layer was separated, dried and concentrated to give 1.92 g of product, mp 131°-132° C., MS (CI): m/z 342 (MH)+.

reactant | 5-iodo-2-aminobenzoic acid | 8 mmole, 2.1 g | IC=1C=CC(=C(C(=O)O)C1)N | C7H6INO2
reactant | trifluoroacetic anhydride | 57 mmole, 12 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | triethyl amine | 2 mL | C(C)N(CC)CC | C6H15N
product | 6-iodo-2-trifluoromethyl-benzo[d][1,3] oxazin-4-one | 1.92 g | IC1=CC2=C(N=C(OC2=O)C(F)(F)F)C=C1 | C9H3F3INO2
